US05472964
Step 1: Methyl 2-[3-(3-hydroxyphenyl)-3-oxopropyl]benzoate
To a suspension of 3-(7-chloroquinolin-2-yl)methoxy)benzaldehyde (10.08 g, 33.9 mmol; U.S. Pat. No. 4,851,409 example 16 step 1) in toluene at 0° C. was added dropwise 1M vinylmagnesium bromide in THF (37 mL). After 30 min. the solution was quenched with NH4OAc, extracted with H2O, brine and dried over Na2SO4. The solvent was removed to afford 11.07 g of the allylic alcohol. This alcohol (11.00 g, 32.4 mmol), methyl o-bromobenzoate (7.31 g, 34 mmol), Pd(OAc)2 (218 mg), LiCl (1.37 g) and LiOAc.H2O (9.04 g) in 65 mL of DMF were heated to 100° C. for 3 h. The solution was cooled, poured in H2O (300 mL) and extracted with EtOAc (3×200 mL). The organic fractions were combined, washed with H2O, brine and dried over Na2SO4. Purification by chromatography (5% EtOAc in toluene) yield 12.44 g of LVIII. 1H NMR (300 MHz, CD3COCD3) δ3.30 (4H, m), 3.75 (3H, s), 5.45 (2H, s), 7.30-8.00 (12H, m) and 8.40 (1H, d).

reactant | methyl o-bromobenzoate | 34 mmol, 7.31 g | BrC1=C(C(=O)OC)C=CC=C1 | C8H7BrO2
reactant | LiCl | 1.37 g | [Li+].[Cl-]
reactant | LiOAc.H2O | 9.04 g | [Li]OC(=O)C.O
solvent | DMF | 65 mL | CN(C)C=O | C3H7NO
solvent | H2O | 300 mL | O | H2O
catalyst | Pd(OAc)2 | 218 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | Methyl 2-[3-(3-hydroxyphenyl)-3-oxopropyl]benzoate | OC=1C=C(C=CC1)C(CCC1=C(C(=O)OC)C=CC=C1)=O | C17H16O4
